US08134001B2
In a manner similar to the method described in example 6a, racemic(2′R, 3R, 4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-(4-cyano-phenoxy)-5-iodo-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (0.65 g, 0.96 mmol) was reacted with trimethylsilyl acetylene (0.94 g, 9.6 mmol), CuI (10 mg), triethylamine (2.89 g, 28.7 mmol), and dichlorobis(triphenylphosphine) palladium (0) (53.6 mg, 0.077 mmol) in anhydrous N,N-dimethylformamide, and then treated with aqueous NaOH in methanol to give racemic(2′R, 3R, 4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-(4-cyano-phenoxy)-5-ethynyl-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as an off white solid (Yield 0.285 g, 51%)

reactant | 6-chloro-4′-(3-chlorophenyl)-2′-[2-(4-cyano-phenoxy)-5-iodo-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.96 mmol, 0.65 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)I)OC1=CC=C(C=C1)C#N)=O | C31H20Cl2IN3O3
reactant | trimethylsilyl acetylene | 9.6 mmol, 0.94 g | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 28.7 mmol, 2.89 g | C(C)N(CC)CC | C6H15N
reactant | NaOH | [OH-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
catalyst | CuI | 10 mg | [Cu]I
product | 6-chloro-4′-(3-chlorophenyl)-2′-[2-(4-cyano-phenoxy)-5-ethynyl-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C)OC1=CC=C(C=C1)C#N)=O | C33H21Cl2N3O3
